US08486984B2
14.1 2-Propyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindol-7-yl-amine
A mixture of 6,8-dichloro-2-propyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindol-7-yl-amine (800 mg, 2.67 mmol) and 20% palladiumhydroxide on carbon in methanol (50 ml) was hydrogenated over night at room temperature. The catalyst was filtered, and the solvent was removed under vacuum to yield the crude product. The residue was dissolved in ethyl acetate and 1 M NaOH solution. The aqueous phase was once more extracted with ethyl acetate. The combined organic layers were dried over magnesium sulfate, filtered, and the solvent evaporated under reduced pressure to give the pure product (530 mg, 86%).

reactant | 6,8-dichloro-2-propyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindol-7-yl-amine | 2.67 mmol, 800 mg | ClC1=C(C(=CC=2C3CN(CC3CCC21)CCC)Cl)N | C15H20Cl2N2
solvent | methanol | 50 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | NaOH | 1 M | [OH-].[Na+]
catalyst | palladiumhydroxide on carbon | [OH-].[OH-].[Pd+2]
product | 2-Propyl-2,3,3a,4,5,9b-hexahydro-1H-benzo[e]isoindol-7-yl-amine | 530 mg, 86% | C(CC)N1CC2CCC3=C(C2C1)C=CC(=C3)N | C15H22N2
